US06855722B2
d) 3-[5-(2-5,6,7,8-Tetrahydro-[1,8]naphthyridin-2-yl-acetylamino)-indol-1-yl]-hexanoic acid ethyl ester
A solution of (5,6,7,8tetrahydro-[1,8]-naphthyridin-2-yl)-acetic acid (0.2 g, 0.65 mmol), 3-(5-amino-indol-1-yl)-hexanoic acid ethyl ester (0.19 g, 0.71 mmol), BOP (0.35 g, 0.78 mmol), and diisopropylethylamine (0.45 mL, 2.6 mmol) in DMF (2.5 mL) was stirred for 16 h. Solvents were evaporated. The resulting residue was partitioned between H2O and EtOAc. The aqueous layer was separated and extracted once more with EtOAc. The extracts were combined, washed with H2O, brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel, eluting with EtOAc/DCM (15, 30, 50, and 80%) to give the title compound (0.20 g, 67% yield) as a brown oil. Mass spectrum (LCMS, ESI) calculated for C26H33N4O3 449.3 (M+H); found 449.3.

reactant | (5,6,7,8tetrahydro-[1,8]-naphthyridin-2-yl)-acetic acid | 0.65 mmol, 0.2 g | N1=C(C=CC=2CCCNC12)CC(=O)O | C10H12N2O2
reactant | 3-(5-amino-indol-1-yl)-hexanoic acid ethyl ester | 0.71 mmol, 0.19 g | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)N)=O | C16H22N2O2
reactant | BOP | 0.78 mmol, 0.35 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 2.6 mmol, 0.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-[5-(2-5,6,7,8-Tetrahydro-[1,8]naphthyridin-2-yl-acetylamino)-indol-1-yl]-hexanoic acid ethyl ester | 0.20 g, 67% yield | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)NC(CC1=NC=2NCCCC2C=C1)=O)=O | C26H32N4O3
